### PR TITLE
[Merged by Bors] - fix(Tactic/PushNeg): add `cleanupAnnotations` to push_neg

### PR DESCRIPTION
**Pull request by adomani**
`Expr`s now have an `mdata` field.  It seems that this gets in the way of `push_neg`, as [reported on Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/push_neg.20behavior).

The above seems to fix the reported errors.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by adomani** [comment]
Alex, thanks for the comment!  I had not come across `cleanupAnnotations`: I simply search the `Expr` file for `mdata` guessing that there was a way to extract the defeq part of the term...

File: Mathlib/Data/Set/Finite.lean [hunk 1]
```diff
@@ -1394,9 +1394,10 @@ theorem not_injOn_infinite_finite_image {f : α → β} {s : Set α} (h_inf : s.
   have h := not_injective_infinite_finite
             ((f '' s).codRestrict (s.restrict f) fun x => ⟨x, x.property, rfl⟩)
   contrapose! h
+  --  re-porting note: the porting note below can probably be removed now: there was an extra
+  --  `rwa [not_not] at h` afte the next `rw`.
   --porting note: why do we have `contrapose!` if the `push_neg` behaviour doesn't work?
-  rw [injective_codRestrict, ← injOn_iff_injective]
-  rwa [not_not] at h
+  rwa [injective_codRestrict, ← injOn_iff_injective]
```
Comment (adomani) [inline Mathlib/Data/Set/Finite.lean:1400]: I would probably remove the old porting note, but wanted to give visibility to this, in case someone objects.

File: Mathlib/Tactic/PushNeg.lean [hunk 2]
```diff
@@ -55,6 +55,7 @@ def transformNegationStep (e : Expr) : SimpM (Option Simp.Step) := do
     catch _ => return none
   let e_whnf ← whnfR e
   let some ex := e_whnf.not? | return Simp.Step.visit { expr := e }
+  let ex := ex.consumeMData
   match ex.getAppFnArgs with
```
Comment (kmill) [inline Mathlib/Tactic/PushNeg.lean:59]: There's a function to cleanup annotations (like `outParam` etc.) and metadata all at once
```suggestion
  match ex.cleanupAnnotations.getAppFnArgs with
```

Please also make sure to add Yury's examples from Zulip into the test file. Once these are done (and you fix the errors in the rest of mathlib, and the fixes are not regressions) I'm happy with this change to `push_neg`.

Comment (adomani) [reply Mathlib/Tactic/PushNeg.lean:59]: Kyle, thank you!  I have pushed fixes for all the issues that were brought up: they all appear improvements to me!

I will wait to see how CI deals with the current version and, once it is green, I will push your fix.

File: Mathlib/Tactic/PushNeg.lean [hunk 3]
```diff
@@ -55,7 +55,7 @@ def transformNegationStep (e : Expr) : SimpM (Option Simp.Step) := do
     catch _ => return none
   let e_whnf ← whnfR e
   let some ex := e_whnf.not? | return Simp.Step.visit { expr := e }
-  match ex.getAppFnArgs with
+  match ex.cleanupAnnotations.getAppFnArgs with
```
Comment (kmill) [inline Mathlib/Tactic/PushNeg.lean:58]: Oh, I made two mistakes with my suggestion. First, `ex` is used later in the default case of the `match`, and second there might still be metavariables in `e`.

Here's a change that will also make it behave somewhat more like the `rfl`/`symm`/`trans` tactics.  We don't need this sort of solution on line 56 since `whnfR` will strip metadata and instantiate just enough metavariables for line 57 to work.

```suggestion
  let ex := (← instantiateMVars ex).cleanupAnnotations
  match ex.getAppFnArgs with
```

Comment (adomani) [reply Mathlib/Tactic/PushNeg.lean]: I pushed this change, thanks!

I do not really understand the deep reasons for it, but I appreciate very much the comments!

**Comment by kmill** [comment]
Thanks!

bors r+
